US08076488B2
A mixture of 5-fluoro-2-nitrobenzonitrile (15 g, 90 mmol), benzyl alcohol (10.8 g, 100 mmol) and potassium carbonate (18.7 g, 135 mmol) in DMF (20 ml) was stirred at room temperature for 60 h. Water (60 ml) was added to the reaction, and the resultant yellow precipitate out filtered, washed with water, and dried under reduced pressure to provide 17.3 g (75.4%) of 5-benzyloxy-2-nitrobenzonitrile. The compound was used directly for the next step without further purification. MS GC-MS M+=211, RT=6.15 min.

reactant | 5-fluoro-2-nitrobenzonitrile | 90 mmol, 15 g | FC=1C=CC(=C(C#N)C1)[N+](=O)[O-] | C7H3FN2O2
reactant | benzyl alcohol | 100 mmol, 10.8 g | C(C1=CC=CC=C1)O | C7H8O
reactant | potassium carbonate | 135 mmol, 18.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | 60 ml | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 5-benzyloxy-2-nitrobenzonitrile | 17.3 g, 75.4% | C(C1=CC=CC=C1)OC=1C=CC(=C(C#N)C1)[N+](=O)[O-] | C14H10N2O3
